US07632829B2
4-(N′-Acetyl-hydrazinocarbonyl)-piperidine-1-carboxylic acid benzyl ester
A suspension of 0.80 g (3.04 mmol) of 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid and 0.25 g (3.34 mmol) in 28 ml CH2Cl2 of N-acethyl hydrazine was treated at 0° C. with 0.73 g (3.80 mmol) of EDCI. Over night, the suspension was naturally warmed to RT, poured on aqueous 10% KHSO4 solution and extracted with CH2Cl2 (3×). The organic phases were washed with aqueous saturated NaHCO3 and aqueous 10% NaCl, dried (Na2SO4) and evaporated to give 0.84 g (87%) of the title compound as white solid. MS: 320.2 (MH+).

reactant | 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid | 3.04 mmol, 0.80 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | hydrazine | NN | H4N2
reactant | EDCI | 3.80 mmol, 0.73 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 28 ml | C(Cl)Cl | CH2Cl2
product | 4-(N′-Acetyl-hydrazinocarbonyl)-piperidine-1-carboxylic acid benzyl ester | 0.84 g, 87% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)NNC(C)=O | C16H21N3O4
